US09108946B2
3-Chloro-N-(3-chloro-1-(pyridine-3-yl)-1H-pyrazol-4-yl)propanamide (5e)
A 100 mL, three-neck round bottom flask was charged with 3-chloro-1-(pyridine-3-yl)-1H-pyrazol-4-amine (1.00 g, 5.14 mmol) and ethyl acetate (10 mL). Sodium bicarbonate (1.08 g, 6.17 mmol) was added and the reaction mixture was cooled to 5° C. 3-Chloropropanoyl chloride (0.783 g, 6.17 mmol) was added dropwise at <20° C. The reaction was allowed to warm up to 20° C. and stirred for 2 hours, at which point thin layer chromatography analysis (Eluent: ethyl acetate) indicated that the reaction was complete. The reaction was diluted with water (50 mL) and the layers separated. The aqueous layer was extracted with ethyl acetate (20 mL) and the combined organic layers were concentrated to dryness to afford a white solid (1.40 g, 96%): mp 152-154° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.04 (s, 1H), 9.07 (d, J=2.7 Hz, 1H), 8.89 (s, 1H), 8.54 (dd, J=4.7, 1.4 Hz, 1H), 8.23 (ddd, J=8.4, 2.7, 1.4 Hz, 1H), 7.54 (dd, J=8.4, 4.7, Hz, 1H), 3.90 (t, J=6.2 Hz, 2H), 2.94 (t, J=6.2 Hz, 2H); 13C NMR (101 MHz, DMSO-d6) δ 167.90, 147.50, 139.47, 135.46, 133.47, 125.51, 124.20, 122.47, 119.87, 40.63, 37.91; ESIMS m/z 285 ([M+H]+).

reactant | 3-chloro-1-(pyridine-3-yl)-1H-pyrazol-4-amine | 5.14 mmol, 1.00 g | ClC1=NN(C=C1N)C=1C=NC=CC1 | C8H7ClN4
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | Sodium bicarbonate | 6.17 mmol, 1.08 g | C([O-])(O)=O.[Na+]
reactant | 3-Chloropropanoyl chloride | 6.17 mmol, 0.783 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | water | 50 mL | O | H2O
product | 3-Chloro-N-(3-chloro-1-(pyridine-3-yl)-1H-pyrazol-4-yl)propanamide | 1.40 g, 96% | ClCCC(=O)NC=1C(=NN(C1)C=1C=NC=CC1)Cl | C11H10Cl2N4O
